US07888364B2
63 mg of morpholine was coupled to 120 mg of 5-(methoxycarbonyl)pyridine-2-carboxylic acid via Procedure G. The reaction mixture was diluted with ethyl acetate, washed with saturated sodium bicarbonate and brine, dried (MgSO4) and evaporated to afford methyl 6-(morpholine-4-carbonyl)nicotinate. 180 mg of methyl 6-(morpholine-4-carbonyl)nicotinate was hydrolyzed via Procedure M to give 6-(morpholine-4-carbonyl)nicotinic acid. 100 mg of 4-chloro-3-(pyridine-2-yl)aniline was coupled to 6-(morpholine-4-carbonyl)nicotinic acid via Procedure G. The product was purified on reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(morpholine-4-carbonyl)nicotinamide. MS (Q1) 423.4 (M)+.

reactant | morpholine | 63 mg | N1CCOCC1 | C4H9NO
reactant | 5-(methoxycarbonyl)pyridine-2-carboxylic acid | 120 mg | COC(=O)C=1C=CC(=NC1)C(=O)O | C8H7NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-(morpholine-4-carbonyl)nicotinate | N1(CCOCC1)C(=O)C1=NC=C(C(=O)OC)C=C1 | C12H14N2O4
